US05856503
Allyl-[6-[4-(4-bromo-phenyl)-2-methyl-quinolin-7-yloxy]-hexyl]-methyl-amine
A solution of 360 mg of [2-amino-4-[6-(allyl-methyl-amino)-hexyloxy]-phenyl]-(4-bromo-phenyl)-methanone in 1.6 ml of acetic acid is treated with 0.01 ml of H2SO4 and 0.4 ml of acetone and boiled at 95° C. for 21 hrs., with a further 0.4 ml of acetone being added after 6 hrs. At 0° C. the reaction is poured into an ice-cold solution of 1.2 ml of 25% ammonium hydroxide solution in 3.5 ml of water and the mixture is subsequently extracted with methylene chloride. After drying the organic phase is evaporated and the residue is purified over silica gel with methylene chloride/methanol (95:5). The title compound obtained (200 mg) is crystallized with 24.6 mg of fumaric acid from methylene chloride/methanol/ether. There are obtained 56 mg of allyl-[6-[4-(4-bromo-phenyl)-2-methyl-quinolin-7-yloxy]-hexyl]-methyl-amine.fumarate (1:2), m.p. 88°-93° C., MS: m/e 467 (M+H+, 1 Br).

reactant | [2-amino-4-[6-(allyl-methyl-amino)-hexyloxy]-phenyl]-(4-bromo-phenyl)-methanone | 360 mg | NC1=C(C=CC(=C1)OCCCCCCN(C)CC=C)C(=O)C1=CC=C(C=C1)Br | C23H29BrN2O2
reactant | H2SO4 | 0.01 ml | OS(=O)(=O)O | H2O4S
reactant | acetone | 0.4 ml | CC(=O)C | C3H6O
reactant | acetone | 0.4 ml | CC(=O)C | C3H6O
reactant | ammonium hydroxide | 1.2 ml | [OH-].[NH4+]
solvent | acetic acid | 1.6 ml | C(C)(=O)O | C2H4O2
solvent | water | 3.5 ml | O | H2O
product | Allyl-[6-[4-(4-bromo-phenyl)-2-methyl-quinolin-7-yloxy]-hexyl]-methyl-amine | C(C=C)N(C)CCCCCCOC1=CC=C2C(=CC(=NC2=C1)C)C1=CC=C(C=C1)Br | C26H31BrN2O
